US05872118
Oxalyl chloride (46.5 g, 0.367 mol, Aldrich) was added to a solution of 3-(4-fluorophenyl)-3-methylbutyric acid (24 g, 0.122 mol) at -10° C. while protected from moisture by a nitrogen atmosphere. The stirring mixture was allowed to warm to 25° C. and was stirred for 2 h. Fractional distillation gave 26.6 g (76%) of 3-(4-fluorophenyl)-3-methylbutyryl chloride as a clear oil, b.p., 132°-138° C.;

reactant | Oxalyl chloride | 0.367 mol, 46.5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(4-fluorophenyl)-3-methylbutyric acid | 0.122 mol, 24 g | FC1=CC=C(C=C1)C(CC(=O)O)(C)C | C11H13FO2
product | 3-(4-fluorophenyl)-3-methylbutyryl chloride | 26.6 g, 76% | FC1=CC=C(C=C1)C(CC(=O)Cl)(C)C | C11H12ClFO
